US07534914B2
STEP 1. Methyl 5-chloro-2-[(2-fluorophenoxy)methyl]benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromoethyl)-5-chlorobenzoate and 2-fluorophenol: 1H-NMR (CDCl3)  8.02 (1H, d, J=2.4 Hz), 7.80-7.77 (1H, m), 7.57-7.53 (1H, m), 7.15-6.89 (4H, m), 5.52 (2H, s), 3.92 (3H, s).

reactant | methyl 2-(bromoethyl)-5-chlorobenzoate | BrCCC1=C(C(=O)OC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 2-fluorophenol | FC1=C(C=CC=C1)O | C6H5FO
product | Methyl 5-chloro-2-[(2-fluorophenoxy)methyl]benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC1=C(C=CC=C1)F | C15H12ClFO3
